US08975277B2
4-[2-(5-Bromo-2-chloro-pyridin-4-yl)-1-hydroxy-ethyl]-piperidine-1-carboxylic acid tert-butyl ester
Sodium borohydride (0.24 g) is added to an ice-cold solution of 4-[2-(5-bromo-2-chloro-pyridin-4-yl)-acetyl]-piperidine-1-carboxylic acid tert-butyl ester (1.65 g) in tetrahydrofuran (40 mL) and water (10 mL). The resulting mixture is stirred for 0.5 h. 2 N aqueous citric acid solution is added and the mixture is extracted with ethyl acetate. The combined extracts are washed with aqueous NaHCO3 solution and brine, dried (MgSO4), and concentrated. The residue is chromatographed on silica gel (cyclohexane/ethyl acetate 65:35) to give the title compound. Mass spectrum (ESI+): m/z=419/421/423 (Cl+Br) [M+H]+.

reactant | Sodium borohydride | 0.24 g | [BH4-].[Na+]
reactant | 4-[2-(5-bromo-2-chloro-pyridin-4-yl)-acetyl]-piperidine-1-carboxylic acid tert-butyl ester | 1.65 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(CC1=CC(=NC=C1Br)Cl)=O | C17H22BrClN2O3
reactant | citric acid | 2 N | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | 4-[2-(5-Bromo-2-chloro-pyridin-4-yl)-1-hydroxy-ethyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C(CC1=CC(=NC=C1Br)Cl)O | C17H24BrClN2O3
